US04423045
Dry hydrogen chloride was passed through a mixture of ethyl 2-p-cyanophenoxyacetate (30.75 g.), diethyl ether (500 ml.) and ethanol (10 ml.) at 0°-5° C. until the solution was saturated with hydrogen chloride, and the mixture was kept at 0° C. for 3 days and then filtered. There was thus obtained as solid residue ethyl p-(ethoxycarbonylmethoxy)benzimidate hydrochloride, m.p. 124°-126° C. A mixture of this compound (6.51 g.), diethyl ether (100 ml.) and a solution of potassium carbonate (3.6 g.) in water (15 ml.) was shaken, the ethereal phase was separated and to it was added a solution of ethyl glycinate hydrochloride (3.1 g.) in water (10 ml.). The mixture was stirred at laboratory temperature for 45 hours and the organic phase was separated, washed with water, dried and evaporated to dryness. The residual oil, which consisted of ethyl N-(ethoxycarbonylmethyl)-p-(ethoxycarbonylmethoxy)benzimidate (5.8 g.) was dissolved in ethanol (75 ml.) hydrazine hydrate (1 ml.) was added and the mixture was heated under reflux for 18 hours and then evaporated to dryness. The residue was purified by chromatography on silica gel using chloroform containing increasing amounts (up to 5% v/v) of ethanol as eluant. There was thus obtained ethyl p-(1,4,5,6-tetrahydro-6-oxo-1,2,4-triazin-3-yl)phenoxyacetate, m.p. 135° C.

reactant | hydrogen chloride | Cl | ClH
reactant | ethyl 2-p-cyanophenoxyacetate | 30.75 g | C(#N)C1=CC=C(OCC(=O)OCC)C=C1 | C11H11NO3
reactant | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl p-(ethoxycarbonylmethoxy)benzimidate hydrochloride | Cl.C(C)OC(=O)COC1=CC=C(C(OCC)=N)C=C1 | InChI=1S/C13H17NO4.ClH/c1-3-16-12(15)9-18-11-7-5-10(6-8-11)13(14)17-4-2;/h5-8,14H,3-4,9H2,1-2H3;1H
